US07893056B2
Commercially available 3-thiophene acetic acid (2.0 g, 14.07 mmol) was dissolved in DCM (45 mL) under nitrogen. Then oxalyl chloride (1.35 mL, 15.48 mmol) was added and the reaction was stirred overnight. Then ammonium hydroxide (30% as NH3 solution) (8.22 mL) was added dropwise with stirring. The reaction mixture was evaporated to provide 2-(3-thienyl)acetamide as a beige solid (3.2082 g). LCMS: (M+H)+=142.1.

reactant | 3-thiophene acetic acid | 14.07 mmol, 2.0 g | S1C=C(C=C1)CC(=O)O | C6H6O2S
reactant | oxalyl chloride | 15.48 mmol, 1.35 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | ammonium hydroxide | 8.22 mL | [OH-].[NH4+]
solvent | DCM | 45 mL | C(Cl)Cl | CH2Cl2
product | 2-(3-thienyl)acetamide | 3.2082 g | S1C=C(C=C1)CC(=O)N | C6H7NOS
